data/mechanisms/records/IMS9-EQ9.21.json
{"mechanism_id": "IMS9-EQ9.21", "species": [{"species_id": "methylcyclohexanol_molecular_ion_O_ionized", "mapped_smiles": "[1H:9][O+:8][CH:1]1[CH:2]([CH3:7])[CH2:3][CH:4]([1H:10])[CH2:5][CH2:6]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_ring_opened_oxonium_C2_radical", "mapped_smiles": "[1H:9][O+:8]=[CH:1][CH2:6][CH2:5][CH:4]([1H:10])[CH2:3][CH:2][CH3:7]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "heptanal_molecular_ion", "mapped_smiles": "[O+:8]=[CH:1][CH2:6][CH2:5][CH:4]([1H:10])[CH2:3][CH:2]([1H:9])[CH3:7]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_oxonium_mz44", "mapped_smiles": "[1H:10][O+:8]=[CH:1][CH2:6]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "pent_1_ene_neutral", "mapped_smiles": "[CH2:5]=[CH:4][CH2:3][CH:2]([1H:9])[CH3:7]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["methylcyclohexanol_molecular_ion_O_ionized"]}, {"state_id": "state_ring_opened", "species_ids": ["distonic_ring_opened_oxonium_C2_radical"]}, {"state_id": "state_heptanal", "species_ids": ["heptanal_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["distonic_oxonium_mz44", "pent_1_ene_neutral"]}], "steps": [{"step_id": "step_alpha_cleavage_ring_opening", "from_state": "state_precursor", "to_state": "state_ring_opened", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [8]}, "target": {"type": "bond", "atom_maps": [1, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [1, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rH_oxygen_to_carbon", "from_state": "state_ring_opened", "to_state": "state_heptanal", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [8, 9]}, "target": {"type": "bond", "atom_maps": [2, 9]}, "electron_count": 1}, {"source": {"type": "radical_orbital", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [2, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [8, 9]}, "target": {"type": "atom", "atom_maps": [8]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_mclafferty_pentene_loss", "from_state": "state_heptanal", "to_state": "state_products", "step_class": "mclafferty_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [8]}, "target": {"type": "bond", "atom_maps": [8, 10]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 10]}, "target": {"type": "bond", "atom_maps": [8, 10]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 10]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_alpha_cleavage", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 244, "equation": "9.21", "figure": null, "panel": null, "section": "9.2 Alcohols (2-methylcyclohexanol, first arrow, labelled 'alpha')"}, "confidence": 0.85, "curator_note": "Alpha cleavage of the O-ionized 2-methylcyclohexanol molecular ion (C7H14O+., m/z 114; the compound is identified by Figure 9.6, 'Mass spectrum of 2-methylcyclohexanol', on printed page 243 -- the other side of this same leaf (243 recto, 244 verso), not the facing page, which would be 245, and by the text of this page, which contrasts this product with 'the analogously formed 2-methylhexanal' of Equation 9.20). The odd electron on the hydroxyl oxygen drives homolysis of the RING bond between the carbinol carbon (map 1) and the methyl-bearing carbon (map 2), so the ring only OPENS: no mass is lost, and the product is the distonic ion (still m/z 114) with the charge in a C=O(+)H oxonium and the radical on map 2, exactly as the second structure is printed. Book draws 2 arc(s); moves <1,2> are drawn -- arc 1 is the fishhook whose tail sits on the oxygen odd electron printed as '+' on the '+OH' group and whose barb points at the C-O bond (the forming map1=map8 pi bond), arc 2 is the fishhook whose tail sits on the breaking map1-map2 ring bond and whose barb points at that same forming pi bond -- and move <3> is an implicit homolysis hook required for electron balance (NOT drawn on the page: the book simply prints the radical dot on map 2 in the product structure). LOCALIZATION (convention B): the page prints the charge directly on the hydroxyl oxygen, so map 8 is written [O+:8] with two single bonds (to map 1 and to the hydroxyl hydrogen map 9) and therefore carries the unpaired electron; the '+' and the odd electron are not merely JSON fields. The two hydrogens that migrate later in the equation are written as isotope-tagged explicit atoms [1H:9] (hydroxyl H) and [1H:10] (the gamma H consumed by the McLafferty step) because RDKit silently strips plain mapped [H:n] atoms; this is the corpus convention (cf. IMS4-EQ4.37, IMS8-EQ8.5d) and is what makes the O-H and C-H bonds addressable by the arrows."}, {"evidence_id": "evidence_step_rH", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_oxygen_to_carbon", "support_type": "textbook_proposed", "locator": {"page": 244, "equation": "9.21", "figure": null, "panel": null, "section": "9.2 Alcohols (2-methylcyclohexanol, second arrow, labelled 'rH')"}, "confidence": 0.8, "curator_note": "The 'rH' arrow as drawn: the HYDROXYL hydrogen (map 9) migrates from the oxonium oxygen BACK to the radical carbon (map 2). On the page this is unmistakable because the second structure no longer writes '+OH' as a unit -- it prints a bare 'O' with '+' and an explicitly drawn O-H bond swung to the right, so that the H sits next to the radical dot -- and because the third structure re-prints the oxygen as '+.' while the second carries only '+'. The product is therefore the LINEAR n-heptanal molecular ion, still m/z 114, an isomer of the precursor (no mass change), which is what the running text calls 'this ... aldehyde' when it says 'this and the analogously formed 2-methylhexanal will also contribute to peaks such as m/z 44 and 58'. Book draws 2 arc(s); moves <1,2> are drawn -- arc 1 is the large fishhook whose tail sits on the O-H bond and whose barb points down at the incipient C-H bond, arc 2 is the small fishhook whose tail sits on the printed radical dot of map 2 and whose barb points up at that same forming C-H bond -- and move <3> is an implicit homolysis hook required for electron balance (NOT drawn on the page: it returns the second O-H electron to the oxygen, which is precisely what restores the '+.' the book prints on the third structure)."}, {"evidence_id": "evidence_step_mclafferty", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_mclafferty_pentene_loss", "support_type": "textbook_proposed", "locator": {"page": 244, "equation": "9.21", "figure": null, "panel": null, "section": "9.2 Alcohols (2-methylcyclohexanol, third arrow, labelled '- C5H10' / 'rH')"}, "confidence": 0.7, "curator_note": "Third arrow of the equation, labelled '- C5H10' above and 'rH' below: a McLafferty rearrangement of the n-heptanal molecular ion -- gamma-hydrogen (map 10, sitting on map 4) transfer to the carbonyl oxygen with beta cleavage of the map5-map6 bond, expelling 1-pentene (C5H10, 70) and leaving the C2H4O+. ion at m/z 44. Book draws 0 arc(s) for this step: the transformation is written only over the arrow and NO fishhooks are printed on the heptanal structure, so all five encoded moves are curator-supplied; they reproduce the standard radical-site-initiated McLafferty flow and were chosen because they produce exactly the ion structure printed on the page. PRODUCT ISOMER AS DRAWN (convention C): the page draws the DISTONIC form .CH2-CH=O(+)H (a double bond to a three-coordinate O+, the radical dot on the terminal CH2), not the enol CH2=CH-OH+. tautomer/resonance partner that is more usually drawn for a McLafferty product; the encoded arrows give precisely the drawn distonic form, because the second electron of the breaking map5-map6 bond is left on map 6 instead of flowing into a C=C. m/z AND INTENSITY (convention F/G): no label is printed under this ion in the equation itself; the running text of this same page names the peak ('will also contribute to peaks such as m/z 44 and 58'), so the m/z is taken from the prose of page 244 and NO relative intensity is recorded -- none is printed anywhere for m/z 44 (the labelled peaks of Figure 9.6 on page 243 are 15, 29, 41, 57, 68, 81, 85, 96 and 114). PROSE, QUOTED EXACTLY rather than paraphrased: the page says 'this and the analogously formed 2-methylhexanal will also contribute to peaks such as m/z 44 and 58'. It names both aldehydes and both masses WITHOUT partitioning them, so the page itself does not say which aldehyde feeds which peak; the first draft of this note asserted specifically that both feed m/z 44, which over-reads the sentence. The schemes do partition: Equation 9.19 terminates at m/z 44 and Equation 9.20 at m/z 58, and 2-methylhexanal's McLafferty ion (C1 + C2 + the 2-methyl) is C3H6O = 58, not 44."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 114.1039, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_44", "species_id": "distonic_oxonium_mz44", "step_id": "step_mclafferty_pentene_loss", "observed_mz": 44.0257, "hydrogen_shift": 1, "isotope_offset": 0, "status": "proposed", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-30T00:00:00Z", "modified_at": "2026-07-30T00:00:00Z"}}
